US04233237
(b) Synthesis of 2-(N-tert-Butylsulfamoyl)-4-[4-(2-methoxyethoxy)-5-chlorosulfonylphenylazo]-5-methanesulfonamido-1-naphthol
To a mixed solution containing 19 g of 2-(N-tert-butylsulfamoyl)-4-[4-(2-methoxyethoxy)-5-sulfophenylazo]-5-methanesulfonamido-1-naphthol prepared as described in Step (a) above, 100 ml of acetone and 20 ml of phosphorous oxychloride, 20 ml of N,N-dimethylacetamide was added dropwise at a temperature of 50° C. or below. After completion of the dropwise addition, the mixture was stirred for 1 hour and was poured gradually into 500 ml of ice water. The crystals thus-precipitated were collected by filtration, washed with 50 ml of acetonitrile and air-dried.

reactant | 2-(N-tert-butylsulfamoyl)-4-[4-(2-methoxyethoxy)-5-sulfophenylazo]-5-methanesulfonamido-1-naphthol | 19 g | C(C)(C)(C)NS(=O)(=O)C1=C(C2=CC=CC(=C2C(=C1)N=NC1=CC=C(C(=C1)S(=O)(=O)O)OCCOC)NS(=O)(=O)C)O | C24H30N4O10S3
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | phosphorous oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 2-(N-tert-Butylsulfamoyl)-4-[4-(2-methoxyethoxy)-5-chlorosulfonylphenylazo]-5-methanesulfonamido-1-naphthol | C(C)(C)(C)NS(=O)(=O)C1=C(C2=CC=CC(=C2C(=C1)N=NC1=CC=C(C(=C1)S(=O)(=O)Cl)OCCOC)NS(=O)(=O)C)O | C24H29ClN4O9S3
